US07105507B2
4-(Dimethylamino)-4-(phenylmethyl)piperidine
A suspension of palladium on carbon (10%, 2 g) was added to a solution of 4-(dimethylamino)-1,4-bis(phenylmethyl)piperidine (Description 13, 4.62 g, 15 mmol) and formic acid (90%, 1.4 mL) in methanol (100 mL). Ammonium formate (4.73 g, 75 mmol) was added and the mixture was stirred at room temperature for 20 hours. The mixture was filtered, washing with methanol, and the solvent was evaporated under reduced pressure. Ether (40 mL) was added and the mixture was extracted with hydrochloric acid (1M, 3×40 mL). The combined aqueous layers were washed with ether (40 mL), adjusted to pH 12.0 with aqueous sodium hydroxide (4M) and extracted with dichloromethane (3×40 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was triturated with hexane (20 mL) and the solid was collected and dried in vacuo to give the the title compound as a colorless solid (2.20 g, 67%). m/z (ES+) 219 (M+1).

reactant | 4-(dimethylamino)-1,4-bis(phenylmethyl)piperidine | 15 mmol, 4.62 g | CN(C1(CCN(CC1)CC1=CC=CC=C1)CC1=CC=CC=C1)C | C21H28N2
reactant | formic acid | 1.4 mL | C(=O)O | CH2O2
reactant | Ammonium formate | 75 mmol, 4.73 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 4-(Dimethylamino)-4-(phenylmethyl)piperidine | 2.20 g, 67% | CN(C1(CCNCC1)CC1=CC=CC=C1)C | C14H22N2
